US09169254B2
HATU (939 mg, 2.47 mmol) and DIPEA (525 μL, 3.09 mmol) were added to a solution of 4-amino-4-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester (500 mg, 2.06 mmol) and 2-fluoro-4-trifluoromethyl-benzoic acid (514 mg, 2.47 mmol) in DMF (10 mL). The mixture was stirred at room temperature for 19 hours and then quenched with a saturated aqueous ammonium chloride solution. The reaction mixture was diluted with EtOAc, and the organic layer was then washed with H2O and saturated brine, dried over MgSO4 and concentrated under reduced pressure. The resulting residue was triturated with n-hexane and EtOAc and then collected by filtration to give 4-carbamoyl-4-(2-fluoro-4-trifluoromethyl-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester as a white solid. This was used in the next step without further purification.

reactant | HATU | 2.47 mmol, 939 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.09 mmol, 525 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-amino-4-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 2.06 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(N)=O)N | C11H21N3O3
reactant | 2-fluoro-4-trifluoromethyl-benzoic acid | 2.47 mmol, 514 mg | FC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4F4O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-carbamoyl-4-(2-fluoro-4-trifluoromethyl-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(C1=C(C=C(C=C1)C(F)(F)F)F)=O)C(N)=O | C19H23F4N3O4
